### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/Matrix): add definitions and theory for the echelon form and pivots of matrices

### PR DESCRIPTION
**Pull request by raoxiaojia**
We add definitions for the row echelon form and pivots of matrices.

We also add some more API about matrix ranks and add abbreviations for upper/lower-triangular matrices based on the current block triangular definition.

---

This is separated from a larger draft [PR](https://github.com/raoxiaojia/mathlib4/pull/1) that implements a tactic for evaluating the rank of matrix, based on a core tactic that derives an echelon form decomposition using Bareiss decomposition (echelon form with exact division only).

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/InnerProductSpace/GramSchmidtOrtho.lean [hunk 1]
```diff
@@ -365,7 +365,7 @@ theorem gramSchmidtOrthonormalBasis_inv_triangular' {i j : ι} (hij : i < j) :
 size of the index set is the dimension of `E`, the matrix of coefficients of `f` with respect to the
 orthonormal basis `gramSchmidtOrthonormalBasis` constructed from `f` is upper-triangular. -/
 theorem gramSchmidtOrthonormalBasis_inv_blockTriangular :
```
Comment (ocfnash) [inline Mathlib/Analysis/InnerProductSpace/GramSchmidtOrtho.lean]:
```suggestion
theorem gramSchmidtOrthonormalBasis_inv_isUpperTriangular :
```

File: Mathlib/LinearAlgebra/Matrix/Charpoly/Basic.lean [hunk 2]
```diff
@@ -196,7 +196,7 @@ lemma BlockTriangular.charpoly {α : Type*} {b : n → α} [LinearOrder α] (h :
     M.charpoly = ∏ a ∈ image b univ, (M.toSquareBlock b a).charpoly := by
   simp only [Matrix.charpoly, h.charmatrix.det, charmatrix_toSquareBlock]
 
-lemma charpoly_of_upperTriangular [LinearOrder n] (M : Matrix n n R) (h : M.BlockTriangular id) :
+lemma charpoly_of_upperTriangular [LinearOrder n] (M : Matrix n n R) (h : M.IsUpperTriangular) :
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Charpoly/Basic.lean]:
```suggestion
lemma charpoly_of_isUpperTriangular [LinearOrder n] (M : Matrix n n R) (h : M.IsUpperTriangular) :
```

File: Mathlib/LinearAlgebra/Matrix/Block.lean [hunk 3]
```diff
@@ -321,12 +334,12 @@ theorem BlockTriangular.det_fintype [DecidableEq α] [Fintype α] [LinearOrder 
   have : IsEmpty { i // b i = a } := ⟨fun i => ha <| mem_image.2 ⟨i, mem_univ _, i.2⟩⟩
   exact det_isEmpty
 
-theorem det_of_upperTriangular [LinearOrder m] (h : M.BlockTriangular id) :
+theorem det_of_upperTriangular [LinearOrder m] (h : M.IsUpperTriangular) :
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Block.lean]:
```suggestion
theorem det_of_isUpperTriangular [LinearOrder m] (h : M.IsUpperTriangular) :
```

File: Mathlib/LinearAlgebra/Matrix/Block.lean [hunk 4]
```diff
@@ -321,12 +334,12 @@ theorem BlockTriangular.det_fintype [DecidableEq α] [Fintype α] [LinearOrder 
...
     M.det = ∏ i : m, M i i := by
   have : DecidableEq R := Classical.decEq _
   simp_rw [h.det, image_id, det_toSquareBlock_id]
 
-theorem det_of_lowerTriangular [LinearOrder m] (M : Matrix m m R) (h : M.BlockTriangular toDual) :
+theorem det_of_lowerTriangular [LinearOrder m] (M : Matrix m m R) (h : M.IsLowerTriangular) :
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Block.lean]:
```suggestion
theorem det_of_isLowerTriangular [LinearOrder m] (M : Matrix m m R) (h : M.IsLowerTriangular) :
```

File: Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean [hunk 5]
```diff
@@ -181,6 +181,16 @@ theorem eq_zero_of_mulVec_eq_zero [NoZeroDivisors R] (hM : M.det ≠ 0) {v : m 
     (hv : M *ᵥ v = 0) : v = 0 :=
   nondegenerate_of_det_ne_zero hM |>.separatingRight.eq_zero_of_mulVec_eq_zero hv
 
+-- Non-field analogue of `mulVec_injective_iff_isUnit` (`NonsingularInverse.lean`).
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Nondegenerate.lean]: We usually don't mention filenames because they change, because docGen will automatically give a link on the [docs site](https://leanprover-community.github.io/mathlib4_docs/) and finally, when the Verso migration happens, these references will be clickable within VS Code.
```suggestion
/-- See also `Matrix.mulVec_injective_iff_isUnit` when working over a field. -/
```

File: Mathlib/LinearAlgebra/Matrix/Rank.lean [hunk 6]
```diff
@@ -213,6 +214,16 @@ theorem rank_of_isUnit [DecidableEq n] [CommSemiring R] [StrongRankCondition R]
   obtain ⟨A, rfl⟩ := h
   exact rank_unit A
 
+theorem rank_of_det_mem_nonZeroDivisors {R : Type*} [CommRing R] [StrongRankCondition R]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Rank.lean]: For _commutative_ rings nontriviality implies the strong rank condition so we can just assume:
```suggestion
theorem rank_of_det_mem_nonZeroDivisors {R : Type*} [CommRing R] [Nontrivial R]
```
(in fact just yesterday we even added the very esoteric fact that this is even true for commutative semirings #39161 though this is not relevant here: you need additive inverses for the determinant)

File: Mathlib/LinearAlgebra/Matrix/Rank.lean [hunk 7]
```diff
@@ -223,15 +234,31 @@ lemma rank_mul_eq_left_of_isUnit_det {R : Type*} [CommRing R] [DecidableEq n] (A
   intro v
   exact ⟨(A⁻¹).mulVecLin v, by simp [mul_nonsing_inv _ hA]⟩
 
+lemma rank_mul_eq_right_of_det_mem_nonZeroDivisors {R : Type*} [CommRing R]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Rank.lean:257]: Can we similarly add the "left" version of this lemma and its friends?

File: Mathlib/LinearAlgebra/Matrix/Rank.lean [hunk 8]
```diff
@@ -223,15 +234,31 @@ lemma rank_mul_eq_left_of_isUnit_det {R : Type*} [CommRing R] [DecidableEq n] (A
...
-  rw [rank, rank, hAB, LinearMap.range_comp, LinearEquiv.finrank_map_eq]
+    (A : Matrix m m R) (B : Matrix m n R) (hA : IsUnit A.det) : (A * B).rank = B.rank :=
+  rank_mul_eq_right_of_det_mem_nonZeroDivisors A B hA.mem_nonZeroDivisors
+
+lemma rank_mul_eq_right_of_lowerTriangular {R : Type*} [CommRing R] [IsDomain R]
+    [Fintype m] [LinearOrder m] (A : Matrix m m R) (B : Matrix m n R)
+    (hA : A.IsLowerTriangular) (hd : ∀ i, A i i ≠ 0) : (A * B).rank = B.rank := by
+  have hdet : A.det ≠ 0 := by
+    rw [det_of_lowerTriangular A hA]
+    exact Finset.prod_ne_zero_iff.mpr fun i _ => hd i
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Rank.lean]:
```suggestion
lemma rank_mul_eq_right_of_isLowerTriangular {R : Type*} [CommRing R] [IsDomain R]
    [Fintype m] [LinearOrder m] (A : Matrix m m R) (B : Matrix m n R)
    (hA : A.IsLowerTriangular) (hd : ∀ i, A.diag i ≠ 0) : (A * B).rank = B.rank := by
  have hdet : A.det ≠ 0 := by simpa [det_of_lowerTriangular A hA, Finset.prod_ne_zero_iff]
```

Comment (ocfnash) [reply Mathlib/LinearAlgebra/Matrix/Rank.lean]: Also can we add the upper triangular version too?

File: Mathlib/LinearAlgebra/Matrix/Rank.lean [hunk 9]
```diff
@@ -320,6 +347,26 @@ theorem rank_le_card_height [Fintype m] [CommSemiring R] [StrongRankCondition R]
     (A : Matrix m n R) : A.rank ≤ Fintype.card m :=
   (Submodule.finrank_le _).trans (finrank_pi R).le
 
+/-- The rank of a matrix is at most the size of any finset containing all its nonzero rows. -/
+theorem rank_le_card_of_row_eq_zero [CommSemiring R] [StrongRankCondition R] (A : Matrix m n R)
+    (s : Finset m) (hz : ∀ i ∉ s, A i = 0) : A.rank ≤ s.card := by
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Rank.lean]: I find this slightly easier to grok:
```suggestion
theorem rank_le_card_of_support_subset [CommSemiring R] [StrongRankCondition R] (A : Matrix m n R)
    (s : Finset m) (hz : Function.support A.row ⊆ s) : A.rank ≤ s.card := by
```
You might even consider adding `open Function` at the very top of the file so you can just write `support A.row ⊆ s`.

File: Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean [hunk 10]
```diff
@@ -0,0 +1,156 @@
...
+
+section Zero
+
+variable [Zero R] {A : Matrix m n R} {l : m → WithTop n}
+
+/-- `A` is in row echelon form and `l i` is the leading position of each row `i`. -/
+structure IsPivot [LT m] [LT n] (A : Matrix m n R) (l : m → WithTop n) : Prop where
+  isRowEchelon : A.IsRowEchelon
+  isLeadingEntry : ∀ i : m, A.IsLeadingEntry i (l i)
+
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean:52]: How about:
```suggestion

namespace IsPivot

```
and close it once you're finished with all the lemmas beginning `IsPivot.`.

File: Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean [hunk 11]
```diff
@@ -0,0 +1,156 @@
...
+theorem isPivot_iff :
+    A.IsPivot l ↔
+      Monotone l ∧ StrictMonoOn l {i | l i ≠ ⊤} ∧ ∀ i : m, A.IsLeadingEntry i (l i) := by
+  refine ⟨fun hA => ⟨hA.monotone, hA.strictMonoOn, hA.isLeadingEntry⟩, ?_⟩
+  rintro ⟨hmono, hstrict, hlead⟩
+  refine ⟨?_, hlead⟩
+  intro i₁ i₂ hlt j₂ hz
+  refine (hlead i₂).1 j₂ ?_
+  rcases eq_or_ne (l i₂) ⊤ with h₂ | h₂
+  · exact h₂ ▸ WithTop.coe_lt_top j₂
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean]: In most situtations we prefer not to use `▸` as it can be a bit brittle. This use is fine but for the sake of uniform style going forward we try not to use it:
```suggestion
  · rw [h₂]
    exact WithTop.coe_lt_top j₂
```

File: Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean [hunk 12]
```diff
@@ -0,0 +1,156 @@
...
+/-- The map-structural characterisation of pivots. This is useful for proving that
+a matrix is in row echelon form. -/
+theorem isPivot_iff :
+    A.IsPivot l ↔
+      Monotone l ∧ StrictMonoOn l {i | l i ≠ ⊤} ∧ ∀ i : m, A.IsLeadingEntry i (l i) := by
+  refine ⟨fun hA => ⟨hA.monotone, hA.strictMonoOn, hA.isLeadingEntry⟩, ?_⟩
+  rintro ⟨hmono, hstrict, hlead⟩
+  refine ⟨?_, hlead⟩
+  intro i₁ i₂ hlt j₂ hz
+  refine (hlead i₂).1 j₂ ?_
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean]: Arguably I'm overgolfing here:
```suggestion
  refine fun ⟨hmono, hstrict, hlead⟩ ↦ ⟨fun i₁ i₂ hlt j₂ hz ↦ (hlead i₂).1 j₂ ?_, hlead⟩
```
feel free to ignore.

File: Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean [hunk 13]
```diff
@@ -0,0 +1,156 @@
...
+  have hdet : (A.submatrix Subtype.val g).det ≠ 0 := by
+    rw [det_of_upperTriangular htri]
+    exact prod_ne_zero_iff.mpr fun i _ => (hlead i).2
+  calc #{i | l i ≠ ⊤}
+      = (A.submatrix Subtype.val g).rank := by
+        rw [rank_of_det_ne_zero hdet, Fintype.card_subtype]
+    _ ≤ A.rank := rank_submatrix_le A Subtype.val g
+
+theorem IsPivot.rank_eq (hA : A.IsPivot l) : A.rank = #{i | l i ≠ ⊤} :=
+  le_antisymm hA.rank_le_card hA.card_le_rank
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean]: Even though one direction is true with weaker hypotheses, I think it is so unlikely that anyone will ever want it that we might as well just prove a single lemma here:
```suggestion
variable [Fintype m] [Fintype n] [LinearOrder m] [LinearOrder n] [CommRing R] [IsDomain R]
  {A : Matrix m n R} {l : m → WithTop n}

theorem IsPivot.rank_eq (hA : A.IsPivot l) : A.rank = #{i | l i ≠ ⊤} := by
  refine le_antisymm (A.rank_le_card_of_row_eq_zero _ fun i hi => hA.eq_top_iff.mp (by aesop)) ?_
  let g : {i // l i ≠ ⊤} → n := fun i => (l i.1).untop i.2
  have hlead : ∀ i, (∀ j < g i, A i.1 j = 0) ∧ A i.1 (g i) ≠ 0 := by
    intro i
    have hl := hA.isLeadingEntry i.1
    rw [← WithTop.coe_untop (l i.1) i.2, isLeadingEntry_coe_iff] at hl
    exact hl
  have htri : (A.submatrix Subtype.val g).IsUpperTriangular := by
    intro i j hij
    exact (hlead i).1 _ ((WithTop.untop_lt_untop_iff _ _).mpr (hA.strictMonoOn j.2 i.2 hij))
  have hdet : (A.submatrix Subtype.val g).det ≠ 0 := by
    rw [det_of_upperTriangular htri]
    exact prod_ne_zero_iff.mpr fun i _ => (hlead i).2
  calc #{i | l i ≠ ⊤}
      = (A.submatrix Subtype.val g).rank := by
        rw [rank_of_det_ne_zero hdet, Fintype.card_subtype]
    _ ≤ A.rank := rank_submatrix_le A Subtype.val g
```

**Review by ocfnash — COMMENTED** [review]
Thanks, this is looking great!

Thinking about naming now I think I prefer `IsPivotedBy` rather than `IsPivot`. Otherwise I've only got the inline comments below.

**Comment by themathqueen** [comment]
There's a similar PR from a few months ago: #38596

**Comment by raoxiaojia** [comment]
Interesting, I'll take a look at the previous version as well to see what is done there and assess the changes.

**Comment by ocfnash** [comment]
Thanks @themathqueen very useful to learn this. At first glance I prefer what @raoxiaojia has put together but I'll wait to hear his view before deciding anything.

**Comment by raoxiaojia** [comment]
I've assessed #38596 -- my first impression is that the 2 PRs are largely complementary despite apparently mentioning the same pivot/echelon form definition. If I read correctly, ~2/3 of LOC in #38596 is for defining equivalence via row operations by GL-actions, which would be a useful bridge to the transvection defs regardless of which definition of pivots/echelon form is used.

For the concrete definition of pivots and echelon form, I do prefer this version though, for several reasons:
- I think it's valuable to have the entire pivot set/map of the matrix itself as an explicit object (`IsPivotedBy` in this PR), especially since it's an important interface for the computational tactic later. The existential-based def of row-echelon in #38596 at `row_zero_or_pivot` makes it harder to use for pivot-related computations (which the rank tactic needs later).
- The totalised pivot entry (`IsLeadingEntry` in this PR vs `IsPivot` in the previous PR) is more convenient to use and keep the definition compact (instead of needing separate considerations for zero-rows).
- This PR actually derives the several fields in `IsEchelonForm` as corollaries from the pivot map (`IsPivotedBy.monotone` and `isPivotedBy_iff` -- in particular the latter is an alternate formulation of echelon form that is close to what the previous stated as their echelon form def).
- I actually considered a formulation similar to that PR for the `IsRowEchelon` def as well, but I ultimately thought the version here is more idiomatic due to existing similar shapes of BlockTriangular formulation.
- The typeclasses assumed are generally weaker in this PR, although I agree that most people are perhaps content with the indices having a linear order.

Of course, I can't be perfectly unbiased here (although I'm trying to) given that I wrote this PR, so I'm happy to receive comments from the others as well.

**Comment by raoxiaojia** [comment]
One thing I forgot to say in above after reading the previous PR -- I think the 'pivot' usually refers to the entry instead of the entire set of entries, so I might want to rename stuff in this PR as well (eg `isLeadingEntry` can become `isPivotEntry` or sth).

File: Mathlib/Analysis/InnerProductSpace/GramSchmidtOrtho.lean (hunk 1 above)
Comment (raoxiaojia) [reply Mathlib/Analysis/InnerProductSpace/GramSchmidtOrtho.lean]: I think these renamings (along with the ones below) makes sense, but they are pre-existing lemmas in mathlib. I wonder if we'll need to preserve the original ones as well (with a deprecation flag) to keep it backward compatible for downstream projects if we really want to rename these?

File: Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean (hunk 12 above)
Comment (raoxiaojia) [reply Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean]: I think this is good and save a few lines, the original version isn't much easier to read either.

File: Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean (hunk 13 above)
Comment (raoxiaojia) [reply Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean]: Right, originally I split it into 2 lemmas as the proofs for both directions were several lines (under a different definition of `isPivot`), so I thought it's easier to read when refactored. With the current version I don't mind either.

File: Mathlib/LinearAlgebra/Matrix/Rank.lean (hunk 6 above)
Comment (raoxiaojia) [reply Mathlib/LinearAlgebra/Matrix/Rank.lean]: Oh I see -- this means that `StrongRankCondition` is basically deprecated (as instance arguments) at this point given that PR?

File: Mathlib/LinearAlgebra/Matrix/Rank.lean (hunk 7 above)
Comment (raoxiaojia) [reply Mathlib/LinearAlgebra/Matrix/Rank.lean:257]: Hmm -- I thought about this last week as well but originally decided to not add it, as the proof of the left version for det being isUnit doesn't generalise to non-zero-divisors, since the current surjectivity argument requires the determinant to have an inverse (while the injectivity lemma doesn't need so). 

However, I've looked again earlier, and the left version can be proved via an adjugate argument which is not too long either, so I'm happy to add it now.

I should have put a comment here regardless though, as the original reasoning to not add it was quite nontrivial.

File: Mathlib/LinearAlgebra/Matrix/Rank.lean (hunk 9 above)
Comment (raoxiaojia) [reply Mathlib/LinearAlgebra/Matrix/Rank.lean]: I guess I don't model matrices by functions mentally, but you're right that this is essentially a statement on the support.

File: Mathlib/Analysis/InnerProductSpace/GramSchmidtOrtho.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/Analysis/InnerProductSpace/GramSchmidtOrtho.lean]: Yes exactly: we add a deprecation to the old name using [this script](https://github.com/leanprover-community/mathlib4/blob/master/scripts/add_deprecations.sh).

File: Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean [hunk 14]
```diff
@@ -0,0 +1,160 @@
...
+variable {m n : Type*} {R : Type*}
+
+section Zero
+
+variable [Zero R] {A : Matrix m n R} {l : m → WithTop n}
+
+/-- `A` is in row echelon form and `l i` is the leading position of each row `i`. -/
+structure IsPivotedBy [LT m] [LT n] (A : Matrix m n R) (l : m → WithTop n) : Prop where
+  isRowEchelon : A.IsRowEchelon
+  isLeadingEntry : ∀ i : m, A.IsLeadingEntry i (l i)
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean]:
```suggestion
  isLeadingEntry (i : m) : A.IsLeadingEntry i (l i)
```

File: Mathlib/LinearAlgebra/Matrix/Echelon/Basic.lean [hunk 15]
```diff
@@ -0,0 +1,104 @@
...
+/-! ### Reduced row echelon form -/
+
+/-- `M` is in reduced row echelon form: it is in row echelon form, each leading entry is
+`1`, and entries above a leading entry vanish (entries below one vanish by
+`isRowEchelon`). -/
+structure IsReducedRowEchelon [LT m] [LT n] [One R] (M : Matrix m n R) : Prop where
+  isRowEchelon : M.IsRowEchelon
+  eq_one_of_isLeadingEntry : ∀ ⦃i : m⦄ ⦃c : n⦄, M.IsLeadingEntry i c → M i c = 1
+  eq_zero_of_lt_of_isLeadingEntry :
+    ∀ ⦃i₁ i₂ : m⦄, i₁ < i₂ → ∀ ⦃c : n⦄, M.IsLeadingEntry i₂ c → M i₁ c = 0
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Echelon/Basic.lean]: I think we can abbreviate these names given that they're in the `IsReducedRowEchelon` namespace. Also a [style nit](https://leanprover-community.github.io/contribute/style.html#hypotheses-left-of-colon):
```suggestion
  eq_one ⦃i : m⦄ ⦃c : n⦄ (hic : M.IsLeadingEntry i c) : M i c = 1
  eq_zero ⦃i₁ i₂ : m⦄ (hi : i₁ < i₂) ⦃c : n⦄ (hc : M.IsLeadingEntry i₂ c) : M i₁ c = 0
```

File: Mathlib/LinearAlgebra/Matrix/Echelon/Basic.lean [hunk 16]
```diff
@@ -0,0 +1,104 @@
...
+    M.IsLeadingEntry i ⊤ ↔ M i = 0 := by
+  simp [IsLeadingEntry, funext_iff]
+
+@[simp]
+theorem isLeadingEntry_coe_iff [LT n] {i : m} {c : n} :
+    M.IsLeadingEntry i c ↔ (∀ j < c, M i j = 0) ∧ M i c ≠ 0 := by
+  simp [IsLeadingEntry]
+
+/-- If column indices have a linear order, then there's at most one leading position per row. -/
+theorem IsLeadingEntry.unique [LinearOrder n] {i : m} {c₁ c₂ : WithTop n}
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Echelon/Basic.lean]:
```suggestion
theorem IsLeadingEntry.eq [LinearOrder n] {i : m} {c₁ c₂ : WithTop n}
```

File: Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean [hunk 17]
```diff
@@ -0,0 +1,160 @@
...
+
+theorem lt_of_lt_of_ne_top [LT m] {i₁ i₂ : m}
+    (hA : A.IsPivotedBy l) (hlt : i₁ < i₂) (h₁ : l i₁ ≠ ⊤) : l i₁ < l i₂ := by
+  by_contra! hle
+  obtain ⟨c₂, hc₂⟩ := WithTop.ne_top_iff_exists.mp (hle.trans_lt h₁.lt_top).ne
+  refine (hA.isLeadingEntry i₂).2 c₂ hc₂.symm (hA.isRowEchelon hlt fun j₁ hj₁ => ?_)
+  exact (hA.isLeadingEntry i₁).1 j₁ ((WithTop.coe_lt_coe.mpr hj₁).trans_le (hc₂.le.trans hle))
+
+/-- The pivots of a matrix are unique. -/
+theorem unique [LT m] {l' : m → WithTop n}
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean:80]:
```suggestion
theorem eq [LT m] {l' : m → WithTop n}
```

File: Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean (hunk 10 above)
Comment (raoxiaojia) [reply Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean:52]: Added, although there's a separate one below in the rank section that needed to be wrapped in the namespace again.

File: Mathlib/LinearAlgebra/Matrix/Echelon/Basic.lean [hunk 18]
```diff
@@ -0,0 +1,104 @@
...
+    (hlt : i₁ < i₂) (h0 : M i₁ = 0) : M i₂ = 0 := by
+  funext j
+  exact he hlt fun j₁ _ => congrFun h0 j₁
+
+/-! ### Leading entries -/
+
+/-- `c` is the leading position of row `i`: entries strictly left of `c` vanish and, when
+`c` is a column, the entry at `c` is nonzero. `c = ⊤` states that the row is zero. -/
+def IsLeadingEntry [LT n] (M : Matrix m n R) (i : m) (c : WithTop n) : Prop :=
+  (∀ j : n, (j : WithTop n) < c → M i j = 0) ∧ ∀ c₀ : n, c = c₀ → M i c₀ ≠ 0
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Echelon/Basic.lean]: I've been back-and-forth with myself on this but I'm inclined to say we should simplify this to just:
```suggestion
def IsLeadingEntry [LT n] (M : Matrix m n R) (i : m) (c : n) : Prop :=
  (∀ j < c, M i j = 0) ∧ M i c ≠ 0
```
and adjust the `isLeadingEntry` axiom in `IsPivotedBy` appropriately.

The reason I've persuaded myself is that this definition should ultimately be useful to people who are not working with echelon form and if we use the definition I propose here then we can give it a more useful API along the following lines:
```lean
lemma IsLeadingEntry.row_ne_zero [LT n] (M : Matrix m n R) {i : m} {c : n}
    (hc : M.IsLeadingEntry i c) :
    M.row i ≠ 0 :=
  fun contra ↦ hc.2 (congrFun contra c)

lemma row_ne_zero_iff_exists_isLeadingEntry [LinearOrder n] [Finite n]
    (M : Matrix m n R) {i : m} :
    M.row i ≠ 0 ↔ ∃ c, M.IsLeadingEntry i c := by
  refine ⟨fun h ↦ ?_, fun ⟨c, hc⟩ ↦ hc.row_ne_zero⟩
  -- For this proof you'll need to add the following imports:
  -- public import Mathlib.Order.WellFounded
  -- public import Mathlib.Data.Fintype.Card
  -- There may be a better proof.
  obtain ⟨c, hc, hmin⟩ := wellFounded_lt.has_min {j | M i j ≠ 0} <| Function.ne_iff.mp h
  refine ⟨c, ?_, hc⟩
  contrapose! hmin
  aesop
```

Comment (ocfnash) [reply Mathlib/LinearAlgebra/Matrix/Echelon/Basic.lean]: Another reason in favour of the change I propose just occurred to me which is to have symmetry between rows and columns: it's plausible that one day someone will want the column version of this and with the new definition we can just feed in the transpose.

Comment (raoxiaojia) [reply Mathlib/LinearAlgebra/Matrix/Echelon/Basic.lean]: Right, I think this might read more natural if the intended usage is outside echelon form as well. This does make it more compatible with the previous PR since that is the choice taken there.

I actually thought the totalised version works equally well for the transpose (since the matrix indices themselves are still plain `m`/`n`), but I don't have a strong opinion on this part tbf, so I'm happy to make the change.

Comment (raoxiaojia) [reply Mathlib/LinearAlgebra/Matrix/Echelon/Basic.lean]: After some tries I think finiteness is not needed at all -- the proof only needs WF of the type. So this avoids needing to import `fintype.card` in the file just for this lemma. Actually I don't think the linear order is needed either.

File: Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean (hunk 17 above)
Comment (raoxiaojia) [reply Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean:80]: After some thoughts I felt that I still slightly prefer `unique` for the uniqueness lemma here, as that seems to be more  commonly used names in mathlib for this kind of uniqueness (e.g. IsLeat.unique, IsLUB.unique), while `eq` usually says something esle (unfold or commutativity) -- although there is a use in CharP.eq for the characteristics,

There's also a type theory consideration that 'unique' and 'eq' are not necessarily talking about the same thing (judgemental vs propositional equality), and imo, this case is probably closer to the uniqueness side, because in a lattice with incomparable elements the lemma fails due to existence of multiple choices of leading entry under the def, but not due to those entries suddenly 'become' not equal when we lose the assumption.

File: Mathlib/LinearAlgebra/Matrix/Echelon/Basic.lean [hunk 19]
```diff
@@ -0,0 +1,103 @@
...
+  refine ⟨c, ?_, hc⟩
+  by_contra
+  aesop
+
+/-- If column indices have a linear order, then there's at most one leading position per row. -/
+theorem IsLeadingEntry.unique [LinearOrder n] {i : m} {c₁ c₂ : n}
+    (h₁ : A.IsLeadingEntry i c₁) (h₂ : A.IsLeadingEntry i c₂) : c₁ = c₂ :=
+  le_antisymm (not_lt.mp fun hlt => h₂.2 (h₁.1 c₂ hlt)) (not_lt.mp fun hlt => h₁.2 (h₂.1 c₁ hlt))
+
+instance decidableIsLeadingEntry [DecidableEq R] [Fintype n] [LT n] [DecidableLT n]
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Echelon/Basic.lean]:
```suggestion
instance [DecidableEq R] [Fintype n] [LT n] [DecidableLT n]
```

File: Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean [hunk 20]
```diff
@@ -0,0 +1,175 @@
...
+- `Matrix.IsPivotedBy`: `l i : WithTop n` is the pivot column of each row `i` of `A`.
+
+## Main results
+
+- `Matrix.IsPivotedBy.rank_eq`: the rank of a matrix is its number of pivots.
+- `Matrix.IsPivotedBy.unique`: the pivot of a matrix is unique if the column indices have a
+  linear order.
+- `Matrix.isPivotedBy_iff`: the map-structural characterisation of pivots.
+- `Matrix.decidableIsPivotedBy`: a decidable instance for `IsPivotedBy` over a `DecidableEq`
+  type with zero and finite linearly ordered indices.
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean]:
```suggestion
```

File: Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean (hunk 17 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean:80]: Fair enough, Mathlib naming is already a bit inconsistent here and `unique` is unlikely to cause confusion.

File: Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean [hunk 21]
```diff
@@ -0,0 +1,175 @@
...
+  refine fun ⟨hmono, hstrict, hlead⟩ ↦ ⟨fun i₁ i₂ hlt j₂ hz ↦ (hlead i₂).1 j₂ ?_, hlead⟩
+  rcases eq_or_ne (l i₂) ⊤ with h₂ | h₂
+  · rw [h₂]
+    exact WithTop.coe_lt_top j₂
+  · have h₁ : l i₁ ≠ ⊤ := fun ht => h₂ (top_le_iff.mp (ht.symm.le.trans (hmono hlt.le)))
+    obtain ⟨c₁, hc₁⟩ := WithTop.ne_top_iff_exists.mp h₁
+    have hj : (j₂ : WithTop n) ≤ c₁ :=
+      WithTop.coe_le_coe.mpr <| le_of_not_gt fun hgt => (hlead i₁).2 c₁ hc₁.symm (hz c₁ hgt)
+    exact lt_of_le_of_lt (hj.trans hc₁.le) (hstrict h₁ h₂ hlt)
+
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean:126]: Can we also add the following variant (assuming I've got the details right):
```lean

theorem isPivotedBy_iff' [PartialOrder m] [LinearOrder n] [WellFoundedLT n] :
    A.IsPivotedBy l ↔
      Monotone l ∧ StrictMonoOn l {i | l i ≠ ⊤} ∧
        ∀ i, (l i = ⊤ ∧ A i = 0) ∨ (∃ c : n, l i = c ∧ A.IsLeadingEntry i c) := by
  convert A.isPivotedBy_iff with i
  refine ⟨fun h ↦ by aesop, fun h ↦ ?_⟩
  by_cases hi : A i = 0
  · suffices l i = ⊤ by aesop
    sorry
  · obtain ⟨c, hc⟩ := A.row_ne_zero_iff_exists_isLeadingEntry.mp hi
    refine Or.inr ⟨c, ?_, hc⟩
    sorry
```

File: Mathlib/LinearAlgebra/Matrix/Echelon/Basic.lean [hunk 22]
```diff
@@ -0,0 +1,103 @@
...
+  exact he hlt fun j₁ _ => congrFun h0 j₁
+
+/-! ### Leading entries -/
+
+/-- `c` is the leading position of row `i`. -/
+def IsLeadingEntry [LT n] (A : Matrix m n R) (i : m) (c : n) : Prop :=
+  (∀ j < c, A i j = 0) ∧ A i c ≠ 0
+
+theorem IsLeadingEntry.row_ne_zero [LT n] {i : m} {c : n} (hc : A.IsLeadingEntry i c) :
+    A.row i ≠ 0 :=
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Echelon/Basic.lean]: I know I originally suggested using `A.row` instead of `A` but we're not doing any multiplication here and this created annoying minor complications in some downstream code I wrote so let's just go with:
```suggestion
    A i ≠ 0 :=
```

File: Mathlib/LinearAlgebra/Matrix/Echelon/Basic.lean [hunk 23]
```diff
@@ -0,0 +1,103 @@
...
+  fun contra => hc.2 (congrFun contra c)
+
+theorem row_ne_zero_iff_exists_isLeadingEntry [LT n] [WellFoundedLT n] {i : m} :
+    A.row i ≠ 0 ↔ ∃ c, A.IsLeadingEntry i c := by
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Echelon/Basic.lean]:
```suggestion
    A i ≠ 0 ↔ ∃ c, A.IsLeadingEntry i c := by
```

File: Mathlib/LinearAlgebra/Matrix/Rank.lean [hunk 24]
```diff
@@ -213,25 +214,80 @@ theorem rank_of_isUnit [DecidableEq n] [CommSemiring R] [StrongRankCondition R]
...
+lemma rank_smul_of_mem_nonZeroDivisors {R : Type*} [CommRing R] {c : R} (B : Matrix m n R)
+    (hc : c ∈ nonZeroDivisors R) : (c • B).rank = B.rank := by
+  have hinj : Function.Injective (LinearMap.lsmul R (m → R) c) := by
+    intro x y hxy
+    funext i
+    have hi : c * x i = c * y i := congrFun hxy i
+    have hz : (x i - y i) * c = 0 := by
+      rw [sub_mul, mul_comm (x i), hi, mul_comm]
+      simp
+    aesop
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/Matrix/Rank.lean]: It's not very important but I think it should be possible to golf this beginning as follows:
```suggestion
    change IsSMulRegular (m → R) c
    rw [isSMulRegular_iff_mem_nonZeroSMulDivisors]
    -- Goal here looks like it should be a separate lemma?
    sorry
```

**Review by ocfnash — APPROVED** [review]
I've left one last round of comments but I think this will be ready once they're done.

File: Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean (hunk 20 above)
Comment (raoxiaojia) [reply Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean]: Also anonymised the instance as well (the tactic decision won't need to name it).

File: Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean (hunk 21 above)
Comment (raoxiaojia) [reply Mathlib/LinearAlgebra/Matrix/Echelon/Pivot.lean:126]: added (WF on n is dropped as isPivotedBy already give the data, so no need to find any min element here).

File: Mathlib/LinearAlgebra/Matrix/Rank.lean (hunk 24 above)
Comment (raoxiaojia) [reply Mathlib/LinearAlgebra/Matrix/Rank.lean]: I think that works -- the goal on your approach is some sort of product lemma for `nonZeroSMulDivisors` membership If I understand the notations correctly. However it seems easier to apply the product at the SMulRegular level which already exists in mathlib. I've pushed a new proof in that line to avoid introducing new lemmas in unrelated places to this PR.

**Comment by raoxiaojia** [comment]
-awaiting-author

**Comment by ocfnash** [comment]
Thanks!

bors merge
